US07767675B2
Step 2. tert-butyl 3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-ylacetate
A mixture of tert-butyl[3-(2-aminopyrimidin-5-yl)-1H-pyrazol-1-yl]acetate (16 mg, 0.058 mmol) and 1-[2-chloro-1-hydroxy-2-(1-quinolin-6-ylcyclopropyl)ethyl]pyrrolidine-2,5-dione (20 mg, 0.058 mmol) in ethanol (0.3 mL) was stirred overnight at 105° C. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product (10 mg, 37%). LCMS: (M+H)=467.0.

reactant | tert-butyl[3-(2-aminopyrimidin-5-yl)-1H-pyrazol-1-yl]acetate | 0.058 mmol, 16 mg | C(C)(C)(C)OC(CN1N=C(C=C1)C=1C=NC(=NC1)N)=O | C13H17N5O2
reactant | 1-[2-chloro-1-hydroxy-2-(1-quinolin-6-ylcyclopropyl)ethyl]pyrrolidine-2,5-dione | 0.058 mmol, 20 mg | ClC(C(O)N1C(CCC1=O)=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C18H17ClN2O3
solvent | ethanol | 0.3 mL | C(C)O | C2H6O
product | tert-butyl 3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]-1H-pyrazol-1-ylacetate | 10 mg, 37% | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C2=NN(C=C2)CC(=O)OC(C)(C)C | C27H26N6O2
